US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare according to the method of example 57.8 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl-bromide (5 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (7.5 mmol, 1.5 eq.). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl-bromide | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)CCBr | C22H26BrCl2NO3
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 7.5 mmol, 1.5 eq. | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H41Cl2N3O4
